US08476261B2
1C) Preparation of 9′, 10′-difluoro-7′-oxospiro[cyclopentane-1,3′(2′H)-[4H]pyrido[1,2,3-de][1,4]benzoxazine]-6′-carboxylic acid
A solution of ethyl-9′,10′-difluoro-7′-oxospiro[cyclopentane-1,3′(2′H)-[7H]pyrido[1,2,3-de][1,4]benzoxazine]-6′-carboxylate (13.2 g, 38 mmol) in a mixture of acetic acid/water/H2SO4 (8:6:1 v/v, 75 mL) was heated under reflux for 2 h. The reaction mixture was poured into ice water. A precipitate formed and was collected by filtration, washed with water and then dried to give the title compound (10.5 g, 32.7 mmol, 86%) as a light yellow solid.

reactant | ethyl-9′,10′-difluoro-7′-oxospiro[cyclopentane-1,3′(2′H)-[7H]pyrido[1,2,3-de][1,4]benzoxazine]-6′-carboxylate | 38 mmol, 13.2 g | C(C)OC(=O)C=1C(C=2C=C(C(=C3C2N(C2(CO3)CCCC2)C1)F)F)=O | C18H17F2NO4
solvent | acetic acid water H2SO4 | 75 mL | C(C)(=O)O.O.OS(=O)(=O)O
product | 9′, 10′-difluoro-7′-oxospiro[cyclopentane-1,3′(2′H)-[4H]pyrido[1,2,3-de][1,4]benzoxazine]-6′-carboxylic acid | 32.7 mmol, 10.5 g, 86% | FC=1C(=C2C=3N(C4(CO2)CCCC4)C=C(C(C3C1)=O)C(=O)O)F | C16H13F2NO4
